US07612212B2
To a stirred solution of (R)-tert-butoxycarbonylamino-[4-(2-methanesulfonyloxy-ethoxy)-phenyl]-acetic acid methyl ester (50 mg, 0.12 mmol) in ethanol (1 mL) was added morpholine (0.043 mL, 0.49 mmol) at room temperature. The reaction mixture was refluxed for 1 hour. The solvent was evaporated and the crude product was purified by chromatography over silica gel eluted with 1:1 v/v hexanes/ethyl acetate to give (R)-tert-butoxycarbonylamino-[4-(2-morpholin-4-yl-ethoxy)-phenyl]-acetic acid methyl ester (45 mg, 92% yield) as a colorless oil.

reactant | (R)-tert-butoxycarbonylamino-[4-(2-methanesulfonyloxy-ethoxy)-phenyl]-acetic acid methyl ester | 0.12 mmol, 50 mg | COC([C@@H](C1=CC=C(C=C1)OCCOS(=O)(=O)C)NC(=O)OC(C)(C)C)=O | C17H25NO8S
reactant | morpholine | 0.49 mmol, 0.043 mL | N1CCOCC1 | C4H9NO
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | (R)-tert-butoxycarbonylamino-[4-(2-morpholin-4-yl-ethoxy)-phenyl]-acetic acid methyl ester | 45 mg, 92% yield | COC([C@@H](C1=CC=C(C=C1)OCCN1CCOCC1)NC(=O)OC(C)(C)C)=O | C20H30N2O6
